US07935700B2
(1-1) Synthesis of (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide
(2S)-2-Aminomethyl-4-(3,4-dichlorobenzyl)morpholine dihydrochloride (30.5 g) was added to chloroform (400 mL) and saturated aqueous sodium hydrogen carbonate solution (400 mL). After dropwise addition of chloroacetyl chloride (7.7 mL) under ice-cooling, and the mixture was stirred at room temperature for 3 hrs. After completion of the reaction, the mixture was extracted with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (31.6 g) as a colorless oil.

reactant | (2S)-2-Aminomethyl-4-(3,4-dichlorobenzyl)morpholine dihydrochloride | 30.5 g | Cl.Cl.NC[C@H]1CN(CCO1)CC1=CC(=C(C=C1)Cl)Cl
reactant | sodium hydrogen carbonate | 400 mL | C(O)([O-])=O.[Na+]
reactant | chloroacetyl chloride | 7.7 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide | 31.6 g | ClC=1C=C(CN2C[C@@H](OCC2)CNC(CCl)=O)C=CC1Cl | C14H17Cl3N2O2
